US06248766B1
2-Methoxy-3,5-dimethylbenzaldehyde
To a solution of 1-methoxy-2,4-dimethylbenzene (8.00 g, 58.7 mmol) and 1,1-dichloromethyl methyl ether (7.40 g, 64.7 mmol) in methylene chloride (30 mL) was added titanium tetrachloride (20.0 g, 105 mmol) at 0° C. and the mixture was stirred at that temperature for 20 minutes. This reaction mixture was poured into iced water and the organic layer was taken, washed with saturated aqueous sodium hydrogen carbonate solution, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure to provide 9.40 g of the title compound. Yield 98%. Oil.

reactant | 1-methoxy-2,4-dimethylbenzene | 58.7 mmol, 8.00 g | COC1=C(C=C(C=C1)C)C | C9H12O
reactant | 1,1-dichloromethyl methyl ether | 64.7 mmol, 7.40 g | COC(Cl)Cl | C2H4Cl2O
reactant | water | O | H2O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 105 mmol, 20.0 g | [Ti](Cl)(Cl)(Cl)Cl
product | 2-Methoxy-3,5-dimethylbenzaldehyde | 9.40 g, Yield 98% | COC1=C(C=O)C=C(C=C1C)C | C10H12O2
